US08383644B2
6-Methyl-5-nitro-pyridin-2-ylamine (1.0 g) was treated with acetic anhydride according to General Procedure Y to give N-(6-Methyl-5-nitro-pyridin-2-yl)-acetamide (1.2 g).

reactant | 6-Methyl-5-nitro-pyridin-2-ylamine | 1.0 g | CC1=C(C=CC(=N1)N)[N+](=O)[O-] | C6H7N3O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-(6-Methyl-5-nitro-pyridin-2-yl)-acetamide | 1.2 g | CC1=C(C=CC(=N1)NC(C)=O)[N+](=O)[O-] | C8H9N3O3
